US04386094
A solution of 25 g of 4-methyl-3-phenoxypyridine, [J.Med.Chem., 18, 1 (1975)] in 90 ml of glacial acetic acid is treated with 30 ml of 40% peracetic acid in acetic acid and the mixture is stirred and heated at 60° C. for 12 hours. Two further 10 ml portions of 40% peracetic acid are added and the mixture heated 4 hours at 60° C. 100 ml of isopropanol is added and the mixture is heated at 90° C. for 4 hours. The mixture is stripped at reduced pressure and dissolved in 500 ml of dichloromethane. The organic layer is washed with an excess of 25% sodium hydroxide solution, dried over anhydrous magnesium sulfate, filtered, concentrated, and distilled to yield 4-methyl-3-phenoxypyridine-1-oxide. B.P. 150°-152° C./0.3 mm

reactant | 4-methyl-3-phenoxypyridine | 25 g | CC1=C(C=NC=C1)OC1=CC=CC=C1 | C12H11NO
reactant | peracetic acid | 30 ml | C(C)(=O)OO | C2H4O3
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 4-methyl-3-phenoxypyridine-1-oxide | CC1=C(C=[N+](C=C1)[O-])OC1=CC=CC=C1 | C12H11NO2
